US04273776
2.2 g of 1-(2,4-Dichlorophenyl)-3-hydroxy-2-propen-1-one (0.01 mole) are dissolved in 50 ml of dry benzene. While stirring 3.2 g of carbonylbis-imidazole (0.02 mol) are added and the reaction mixture is warmed to about 50°-70° for a short time to get the components dissolved. If required the solution is filtered clear and then allowed to stand at room temperature for 22 hours. The crystallized product is filtered off, washed with petroleum ether (40°-60°) and dried (1.8 g). Treatment with water and drying in a desiccator over P2O5 furnishes 1.5 g of 1-(2,4-dichlorophenyl)-3-(1H-imidazol-1-yl)-2-propen-1-one, which after recrystallization from ethyl acetate melts at 160°-162°.

reactant | 1-(2,4-Dichlorophenyl)-3-hydroxy-2-propen-1-one | 0.01 mole, 2.2 g | ClC1=C(C=CC(=C1)Cl)C(C=CO)=O | C9H6Cl2O2
reactant | carbonylbis-imidazole | 0.02 mol, 3.2 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-(2,4-dichlorophenyl)-3-(1H-imidazol-1-yl)-2-propen-1-one | 1.5 g | ClC1=C(C=CC(=C1)Cl)C(C=CN1C=NC=C1)=O | C12H8Cl2N2O
